US08404859B2
A mixture of 4-bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole (2.43 g, 8.232 mmol), dichlorobis(triphenylphosphine)palladium(II) (314 mg, 0.447 mmol), pulverized potassium carbonate (1.3 g, 9.406 mmol), THF (95 mL) and methanol (12 mL) was stirred at 25° C. in a sealed tube under 40 psi of carbon monoxide for 3 h. The reaction mixture was diluted with water (100 mL) and extracted with ethyl acetate (3×150 mL). The organic layers were combined, washed with brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure. To the resulting brown oil was added THF (20 mL), water (12 mL) and lithium hydroxide monohydrate (3.4 g, 81.03 mmol) at 25° C. and heated at 80° C. for 90 min. The reaction mixture was cooled, diluted with water (100 mL) and washed with ether (2×50 mL). The aqueous layer was acidified with aqueous 6N HCl, saturated with sodium chloride and extracted with ethyl acetate (3×150 mL). The organic layers were combined, washed with brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give [1-(Tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetic acid (1.85 g, 86.3%) as a yellow gum which solidified. MS m/e 261.3 (M+H+).

reactant | 4-bromomethyl-1-(tetrahydro-pyran-2-yl)-1H-indazole | 8.232 mmol, 2.43 g | BrCC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C13H15BrN2O
reactant | potassium carbonate | 9.406 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
reactant | lithium hydroxide monohydrate | 81.03 mmol, 3.4 g | O.[OH-].[Li+]
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.447 mmol, 314 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 12 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 12 mL | CO | CH4O
solvent | THF | 95 mL | C1CCOC1 | C4H8O
product | [1-(Tetrahydro-pyran-2-yl)-1H-indazol-4-yl]-acetic acid | 1.85 g, 86.3% | O1C(CCCC1)N1N=CC2=C(C=CC=C12)CC(=O)O | C14H16N2O3
